US05716950
Preparation of potassium 6-[[4-(4-chlorophenyl)phenylmethyl]-1-piperazinyl]hexylsulfonamide
6-[[4-(4-Chlorophenyl)phenylmethyl]-1-piperazinyl]hexylsulfonamide prepared according to Method A is converted into potassium salt using aqueous potassium hydroxide solution or potassium tert-butoxide and recrystallized from methanol-diethyl ether to give the title compound as colorless crystals.

reactant | 6-[[4-(4-Chlorophenyl)phenylmethyl]-1-piperazinyl]hexylsulfonamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)CC1N(CCNC1)CCCCCCS(=O)(=O)N | C23H32ClN3O2S
reactant | potassium | [K] | K
reactant | potassium hydroxide | [OH-].[K+]
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
product | potassium 6-[[4-(4-chlorophenyl)phenylmethyl]-1-piperazinyl]hexylsulfonamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)CC1N(CCNC1)CCCCCCS(=O)(=O)N.[K] | InChI=1S/C23H32ClN3O2S.K/c24-22-11-9-21(10-12-22)20-7-5-19(6-8-20)17-23-18-26-13-15-27(23)14-3-1-2-4-16-30(25,28)29;/h5-12,23,26H,1-4,13-18H2,(H2,25,28,29);
